US07842696B2
DIPEA (2.928 g, 22.66 mmol) was added to a stirred solution of [(biphenyl-4-carbonyl)-amino]-acetic acid (2.892 g, 11.33 mmol) in DMF (30 mL). HOBT (1.835 g, 13.59 mmol) and EDCI.HCl (2.532 g, 13.59 mmol) were then added at room temperature. After 2 minutes, N-Boc-piperazine (3.381 g, 24.22 mmol) was added and the resulting mixture was stirred overnight. The reaction mixture was diluted with cold water and the product was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine solution, dried over sodium sulphate and concentrated in vacuo to afford 1.7 g (37.5% yield) of 4-{2-[(biphenyl-4-carbonyl)-amino]-acetyl}-piperazine-1-carboxylicacid tert-butyl ester. LC-MS purity: 82.06%

reactant | DIPEA | 22.66 mmol, 2.928 g | CCN(C(C)C)C(C)C | C8H19N
reactant | [(biphenyl-4-carbonyl)-amino]-acetic acid | 11.33 mmol, 2.892 g | C1(=CC=C(C=C1)C(=O)NCC(=O)O)C1=CC=CC=C1 | C15H13NO3
reactant | HOBT | 13.59 mmol, 1.835 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 13.59 mmol, 2.532 g | CCN=C=NCCCN(C)C.Cl
reactant | N-Boc-piperazine | 24.22 mmol, 3.381 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{2-[(biphenyl-4-carbonyl)-amino]-acetyl}-piperazine-1-carboxylicacid tert-butyl ester | 1.7 g, 37.5% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C24H29N3O4
